US05516788
cis-4b,5,9b,10-Tetrahydro-9b-methylindeno [1,2-b]-indole
The phenylhydrazone of 2-methyl-1-indanone (1.44 g, 6.1 mmol) was heated in diethylene glycol (20 cm3) to near its reflux temperature, until ammonia started to evolve from the air condenser. Heating was continued overnight, or until the ammonia ceased to evolve. The solution was cooled, poured into an equal volume of water, and extracted into diethylether. The ethereal solution was back-extracted with 2M hydrochloric acid, which was made basic with sodium hydroxide, and re-extracted with diethylether. The extracts were evaporated and the residue was purified by column chromatography using silica eluating with 5% EtOAc petrol to yield the title compound as a colourless solid (Rf 30% EtOAc/petrol 0.8). Yield: (28%). M.p. 72° C. 1H NMR (CDCl3) δ: 1.46 (3H, s,), 3.10 (1H, d), 3.30 (1H, dd,), 4.05 (1H, s,), 4.69 (1H, s,), 6.52 (1H, dd,), 6.71 (1H, ddd,), 6.95 (1H, ddd,), 7.0-7.2 (5H, m,).

reactant | 2-methyl-1-indanone | 6.1 mmol, 1.44 g | CC1C(C2=CC=CC=C2C1)=O | C10H10O
reactant | ammonia | N | H3N
reactant | water | O | H2O
solvent | diethylene glycol | 20 cm3 | C(COCCO)O | C4H10O3
product | cis-4b,5,9b,10-Tetrahydro-9b-methylindeno [1,2-b]-indole | C[C@]12[C@H](NC=3C=CC=CC13)C1=CC=CC=C1C2 | C16H15N
